US04873255
2-(4-Aminophenoxymethyl)-2,5,6,7,8-pentamethylchroman
Following a procedure similar to that described in Preparation 4, 760 mg of 2,5,6,7,8-pentamethyl-2-(4-nitrophenoxymethyl)-2H-chromene (prepared as described in Preparation 31) were hydrogenated, using 100 mg of 10% w/w palladium-on-carbon, 20 ml of methanol and 70 ml of benzene, at atmospheric pressure, to afford 520 mg of the title compound as a pale yellow oil.

reactant | 2,5,6,7,8-pentamethyl-2-(4-nitrophenoxymethyl)-2H-chromene | 760 mg | CC1(OC2=C(C(=C(C(=C2C=C1)C)C)C)C)COC1=CC=C(C=C1)[N+](=O)[O-] | C21H23NO4
reactant | methanol | 20 ml | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | 2-(4-Aminophenoxymethyl)-2,5,6,7,8-pentamethylchroman | 520 mg | NC1=CC=C(OCC2(OC3=C(C(=C(C(=C3CC2)C)C)C)C)C)C=C1 | C21H27NO2
